US06242474B1
N,N′-carbonyldiimidazole (65.09 g) was added all at once to a solution (200 ml) of N,N-dimethylformamide containing 3-acetylamino-4-nitrobenzoic acid (60.22 g), and the reaction mixture was stirred at room temperature for 1 hour. 1-pentanesulfonamide (60.72 g) and 1,8-diazabicycle[5.4.0]undec-7-ene (61.12 g) were added thereto, and the mixture was stirred at 100° C. for 16 hours. The solvent was evaporated at 90° C. under reduced pressure using a vacuum pump. Chloroform and water were added to the resulting residue, and the pH of the aqueous layer was adjusted to 4 with diluted hydrochloric acid with stirring. The organic layer was separated, dried over sodium sulfate, and then concentrated to yield partially purified N-(n-pentanesulfonyl)-3-(acetylamino)-4-nitrobenzamide. The product was used immediately in the next reaction step.

reactant | 3-acetylamino-4-nitrobenzoic acid | 60.22 g | C(C)(=O)NC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C9H8N2O5
reactant | 1-pentanesulfonamide | 60.72 g | C(CCCC)S(=O)(=O)N | C5H13NO2S
reactant | undec-7-ene | 61.12 g | CCCCCCC=CCCC | C11H22
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(n-pentanesulfonyl)-3-(acetylamino)-4-nitrobenzamide | C(CCCC)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])NC(C)=O)=O | C14H19N3O6S
